US06180642B2
Step II: 2-(5-Amino-4-iodopyridin-2-yl)-1-(2-azabicyclo[2.2.2]oct-2-yl)-2-methylpropan-1-one
A vigorously stirred mixture of N-{6-[2-(2-azabicyclo[2.2.2] oct-2-yl)-1,1-dimethyl-2-oxoethyl]-4-iodopyridin-3-yl}-2,2-dimethyl-propionamide (4.66 g, 9.64 mmol.) in 24% H2SO4 (48 mL) was heated at 100° C. for approximately 3.5h. After cooling to room temperature, the reaction mixture was basified to pH=10 with 2.5N NaOH and then extracted with ethyl acetate (×3). The combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by recrystallization from dichloromethane/diethyl ether to give the title compound as prisms (3.02 g, 78%).

reactant | N-{6-[2-(2-azabicyclo[2.2.2] oct-2-yl)-1,1-dimethyl-2-oxoethyl]-4-iodopyridin-3-yl}-2,2-dimethyl-propionamide | 9.64 mmol, 4.66 g | C12N(CC(CC1)CC2)C(C(C)(C)C2=CC(=C(C=N2)NC(C(C)(C)C)=O)I)=O | C21H30IN3O2
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | H2SO4 | 48 mL | OS(=O)(=O)O | H2O4S
product | 2-(5-Amino-4-iodopyridin-2-yl)-1-(2-azabicyclo[2.2.2]oct-2-yl)-2-methylpropan-1-one | 3.02 g, 78% | NC=1C(=CC(=NC1)C(C(=O)N1C2CCC(C1)CC2)(C)C)I | C16H22IN3O
